US06133258
To a mixture of 250 mg of ethyl [4-[N-methyl-N-(4-oxo-4H-pyrido[3,2-e]-1,3-thiazin-2-yl)amino)phenyl]acetate and 1.55 ml of ethanol was added 1.55 ml of a 0.5 N aqueous solution of sodium hydroxide under cooling with ice. The mixture was then stirred at room temperature for 4 hours. The reaction mixture was diluted with 5 ml of water, and then adjusted with a 0.5 N hydrochloric acid to pH 1. The resulting crystal was collected by filtration, washed with water and then with diethyl ether, and then dried under reduced pressure to obtain 227 mg of [4-[N-methyl-N-(4-oxo-4H-pyrido[3,2-e]-1,3-thiazin-2-yl)amino]phenyl]acetic acid. Nuclear magnetic resonance spectrum (CDCl3, TMS internal standard) δ: 3.64 (3H, s), 3.77 (2H, s), 7.33 (2H, d, J=7.6 Hz), 7.38 (1H, dd, J=8.0, 4.8 Hz), 7.49 (2H, d, J=7.6 Hz), 8.54-8.60 (1H, m), 8.67 (1H, d, J=8.0 Hz)

reactant | ethyl [4-[N-methyl-N-(4-oxo-4H-pyrido[3,2-e]-1,3-thiazin-2-yl)amino)phenyl]acetate | 250 mg | CN(C=1SC2=C(C(N1)=O)C=CC=N2)C2=CC=C(C=C2)CC(=O)OCC | C18H17N3O3S
reactant | ethanol | 1.55 ml | C(C)O | C2H6O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 0.5 N | Cl | ClH
solvent | water | 5 ml | O | H2O
product | [4-[N-methyl-N-(4-oxo-4H-pyrido[3,2-e]-1,3-thiazin-2-yl)amino]phenyl]acetic acid | 227 mg | CN(C=1SC2=C(C(N1)=O)C=CC=N2)C2=CC=C(C=C2)CC(=O)O | C16H13N3O3S
